US07858781B2
(1) Step A: trans-2,2-Dimethyl-propionic acid 1-benzyl-3-methyl-piperidin-4-yl ester (18)
To a cis/trans mixture of 1-benzyl-3-methyl-piperidin-4-ol (50 g, 243 mmol, prepared as described in Can. J. Chem. (1972) 50, 803) in THF is added triethylamine (51 ml, 365 mmol) followed by 2,2-dimethyl-propionyl chloride (45 ml, 365 mmol). The reaction is exothermic and a precipitate is formed. The mixture is heated under reflux for 18 hours, cooled, filtered and washed with ether. The organic layers are washed with 1N—NaOH and brine, dried and evaporated. The crude is purified by chromatography on silicagel using hexane and EtOAc (5%) to give pure trans-isomer as a colourless oil.

reactant | 1-benzyl-3-methyl-piperidin-4-ol | 243 mmol, 50 g | C(C1=CC=CC=C1)N1CC(C(CC1)O)C | C13H19NO
reactant | triethylamine | 365 mmol, 51 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethyl-propionyl chloride | 365 mmol, 45 ml | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | THF | C1CCOC1 | C4H8O
product | trans-2,2-Dimethyl-propionic acid 1-benzyl-3-methyl-piperidin-4-yl ester | C(C1=CC=CC=C1)N1C[C@H]([C@@H](CC1)OC(C(C)(C)C)=O)C | C18H27NO2
